US04336268
4.6 g of hexahydro-3a-(m-methoxyphenyl)-1-methylindoline are dissolved in 100 ml of acetone, and the solution is treated with 10 ml of methyl iodide. The mixture is boiled at reflux for 10 hours. Thereafter, the solvent is removed by distillation, and the residue is recrystallized from acetone. The hexahydro-3a-(m-methoxyphenyl)-1,1-dimethyl-indolinium iodide obtained melts at 195°-196° C.

reactant | hexahydro-3a-(m-methoxyphenyl)-1-methylindoline | 4.6 g | COC=1C=C(C=CC1)C12CCN(C2CCCC1)C | C16H23NO
reactant | methyl iodide | 10 ml | CI | CH3I
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | hexahydro-3a-(m-methoxyphenyl)-1,1-dimethyl-indolinium iodide | [I-].COC=1C=C(C=CC1)C12CC[N+](C2CCCC1)(C)C | InChI=1S/C17H26NO.HI/c1-18(2)12-11-17(10-5-4-9-16(17)18)14-7-6-8-15(13-14)19-3;/h6-8,13,16H,4-5,9-12H2,1-3H3;1H/q+1;/p-1
